Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
LUNG ADENOCARCINOMA
 
Major Surgical or Invasive Procedure:
CHEST TUBE PLACEMENT

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ y/o male with a history of HTN and prostate
cancer s/p resection who presents from his PCP office after ___ 
CXR
showed a pleural effusion. 

The patient reports five days of cough, dyspnea, trouble
swallowing and decreased appetite. He notes that cough is
non-productive and has become progressively worse. Additionally,
he has had dyspnea, at times at rest though normally with
exertion. Endorses rhinorrhea that stopped today without other
URI symptoms or voice change. No chest pain, hemoptysis, fever 
or
chills. Additionally, he notes trouble swallowing the last ___
days that has been associated with decreased appetite. He
specifically has had more trouble swallowing solid foods, often
requiring liquids for food to move. No odynophagia, voice
changes, hematochezia, melena, or history of similar trouble
swallowing. He feels he has last ~12 lbs since ___ (112->100
lbs). Additionally, he describes ___ years of intermittent leg
swelling that progresses throughout the day, resolves overnight.
Feels his left leg may be more swollen recently. Within the last
___ years, he reports a normal EKG, TTE, and holter monitor as
part of a work up for syncope. Denies orthopnea, PND, abdominal
pain, nausea, vomiting, diarrhea or constipation. Only personal
history of cancer was prostate cancer s/p resection. No known TB
contacts or recent travel abroad - last left the ___ in the
___ to visit ___. No history of DVT/PE nor recent
immobilization. Also denies any history of smoking, COPD or
asthma.  

 
Past Medical History:
Hypertension
Prostate cancer (___) s/p resection
 
Social History:
___
Family History:
Father had prostate cancer. Mother had lung cancer (non-smoker). 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: Temp 97.9F BP 118/68 HR 89 RR 18 97% on RA 
GENERAL: Elderly, cachetic male in NAD. Lying comfortably in 
bed.
Alert and interactive.
HEENT: NCAT. PERRL. Sclera anicteric and without injection.
Oropharynx clear. 
NECK: Supple, no lymphadenopathy. 
CARDIAC: RRR with normal S1 and S2. No m/r/g. 
RESP: Normal respiratory effort. Decreased BS over lower ___ of
left side, right CTAB without wheezes, rales or rhonchi. 
ABDOMEN: Normoactive BS. Soft, NT/ND. No guarding or masses
appreciated. 
CHEST: Left-sided chest tube with bloody, serosanguineous
drainage. Mild leaking around the site.  
MSK: Warm, well perfused. Trace ___ edema, no erythema. 
SKIN: Warm, dry. No rashes. 
NEUROLOGIC: Alert and interactive. CN2-12 grossly intact. Moves
all extremities. 
PSYCH: Appropriate mood and affect.

DISCHARGE PHYSICAL EXAM:
VITALS: ___ ___ Temp: 98.0 PO BP: 121/72 L Sitting HR: 77 
RR: 18 O2 sat: 98% O2 delivery: RA 
GENERAL: nad, well-nourished appearing
EYES no scleral icterus
CV: Normal rate and rhythm; no peripheral edema
RESP: Crackles through L lung, clear to auscultation R side
ABD: Soft supple nondistended nontender
SKIN: Venous stasis changes lower legs bilaterally
NEURO: Cranial nerves II through XII intact

 
Pertinent Results:
ADMISSION LABS:
===================
___ 03:30PM BLOOD WBC-14.4* RBC-4.63 Hgb-14.5 Hct-44.1 
MCV-95 MCH-31.3 MCHC-32.9 RDW-11.5 RDWSD-39.8 Plt ___
___ 03:30PM BLOOD Neuts-78.0* Lymphs-15.0* Monos-6.5 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-11.24* AbsLymp-2.17 
AbsMono-0.94* AbsEos-0.00* AbsBaso-0.02
___ 11:26PM BLOOD ___ PTT-29.1 ___
___ 03:30PM BLOOD Glucose-109* UreaN-28* Creat-1.1 Na-141 
K-5.7* Cl-101 HCO3-21* AnGap-19*
___ 03:30PM BLOOD Calcium-9.4 Phos-3.2 Mg-2.2

PERTINENT PATH/MICRO:
=======================

SPECIMEN(S) SUBMITTED: PLEURAL FLUID
DIAGNOSIS:
Pleural fluid, left:
POSITIVE FOR MALIGNANT CELLS.
- Metastatic lung adenocarcinoma.
- Immunohistochemical stains show the following profile in tumor 
cells:
Positive: TTF-1, Napsin-A, CK7, MOC31, CK20 (focal)
Negative: CDX-2, NKX3.1, PSA
Note: The prepared cell block shows only scant to low tumor 
cellularity, likely insufficient for any
ancillary molecular studies if needed.
SPECIMEN DESCRIPTION:
Received: 5 ml, cloudy, amber fluid.
Prepared: 1 monolayer, ___ FFPE cell block
CLINICAL HISTORY:
Weight loss, large pleural effusion.

CT CHEST WITH CONTRAST
IMPRESSION: 
1. Spiculated left upper lobe nodule suspicious for primary lung 
neoplasm. 
2. Persistent small volume left pleural effusion with chest 
drain in situ. 
3. Small left pneumothorax. 
4. Multiple scattered pulmonary nodules measuring up to 3 mm, 
which should be 
followed on subsequent restaging study. 
5. Small lucent vertebral body bone lesions measuring up to 5 
mm, which are 
too small to characterize.  MRI thoracic spine with contrast can 
be performed 
for further evaluation. 

CXR
IMPRESSION:  
In comparison with the study of ___, there is little 
overall change in the appearance of the left pneumothorax with 
chest tube in place.  
Opacification at the left base is consistent with residual 
pleural effusion and atelectatic changes. The right lung is 
clear and there is no evidence of vascular congestion. 

LENIS
IMPRESSION:    
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

DISCHARGE LABS:
===================
___ 07:20AM BLOOD WBC-13.7* RBC-4.66 Hgb-14.1 Hct-44.3 
MCV-95 MCH-30.3 MCHC-31.8* RDW-11.6 RDWSD-40.0 Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-95 UreaN-23* Creat-0.9 Na-138 
K-5.4 Cl-98 HCO3-24 AnGap-16
___ 07:20AM BLOOD Albumin-3.1* Calcium-8.6 Phos-3.3 Mg-2.___RIEF HOSPITAL COURSE:
===========================
Mr. ___ is a ___ y/o male with a history of HTN, prostate
cancer s/p resection with L sided exudative pleural effusion w/
chest tube placement with cytology now consistent with lung
adenocarcinoma. 

He presented with dry cough, shortness of breath, and dysphagia. 
CXR demonstrated a large left sided pleural effusion. A chest 
tube was placed with exudative pleural fluid. His SOB, dry cough 
and dysphagia improved with removal of 2L fluid. Cytology 
confirmed adenocarcinoma but at the time of discharge there was 
not enough sample for genetic analysis. 

ACUTE ISSUES:
=============
#Lung cancer
#Pleural effusion
#Cough, weight loss 
Describes several days of cough, dyspnea, and weight loss. CXR
with large left-sided effusion. Pleural studies revealed an
exudative pleural effusion. N.B. small left sided apical
pneumothorax on CXR and CT as of ___. The patient had a CT 
with
contrast demonstrating a large spiculated nodule with other
smaller nodules and 5 mm lesions of the spine. Cytology stains
for prostate cancer were negative and furthermore the patient 
had
a PSA of 0 in ___ making metastatic prostate cancer
unlikely. Preliminary cytology consistent with lung
adenocarcinoma, insufficient sample for further molecular
characterization. Will need outpatient f/u in IP and ___ 
clinic

CHRONIC/STABLE/RESOLVED ISSUES:
===============
#Hypertension: 
-on home amlodipine 10mg

#Ketonuria
#AGMA (Resolved)
#Decreased appetite/weight loss 
Likely due to malnutrition in the setting of recent weight loss
and malignancy. No signs of DKA. Lactate normal. Nutrition 
consulted and recommend ordinary diet PO as tolerated, continue 
Ensure Enlive, and multivitamins with minerals

#Leukocytosis
Suspect a stress response. Lower concern for pneumonia. Pleural
fluid gram stain without microorganisms. Final fluid culture no
growth as of ___, negative AFB smear. Preliminary anaerobic
culture without growth. Will hold antibiotics and trend for now.
F/u pleural fluid anaerobic and acid fast culture

#Elevated d-dimer
D-dimer 1700 in the ED, greater than age-adjusted cut off of 
760.
Borderline tachycardia but otherwise HD stable and on RA.
Differential includes PE/DVT vs elevation iso
inflammation/possible malignancy. DVT US ordered given
worsening ___ swelling - ___ was negative. Will need to consider 
CTA chest
following drainage of effusion both to evaluate for PE.

#Dysphagia (resolved)
#Decreased appetite
Described trouble swallowing solids, not liquids, for ___ days
before admission. S&S consulted, safe for regular diet. After
draining fluid reports he no longer was experiencing dysphagia
thus it was most likely related likely was ___ to mass effect.

TRANSITIONAL ISSUES:
======================
-Interventional pulm appointment on ___
-Pt will need follow up with oncology for lung adenocarcinoma
-F/u pleural fluid anaerobic and acid fast culture

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  amLODIPine 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
LUNG ADENOCARCINOMA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear MR. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You had a dry cough and felt short of breath. You were found 
to have fluid collecting in the space between your lung and 
chest, called a pleural effusion

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================

-You had a tube placed in the chest to drain this fluid. 

-Cancerous cells were found in the fluid and it appears there is 
cancer in the lungs 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team
 
Followup Instructions:
___